US04714619
N-Benzyloxycarbonyl-D-alanine trans-2-Methylcyclohexyl Ester (10)
N-Benzyloxycarbonyl-D-alanine (2.5 mmol. 0.556 g) and trans-2-methylcyclohexanol (3 equivalents, 1 mL) were dissolved in 7 mL THF at room temperature, followed by the addition of 70 mg 4-dimethylaminopyridine. DCC (2.5 mmol, 0.515 g) was then introduced with stirring. The solution turned cloudy immediately and was stirred at room temperature overnight. The reaction mixture was stirred for another 15 min after several drops of HOAc were added to it. Dicyclohexylurea (DCU) was filtered off and the filtrate evaporated to dryness. The residue was dissolved in ethyl acetate. The EtOAc solution was filtered, washed with 0.5N HCl (2×), brine (2×), 5% NaHCO3 (2×) and finally brine (2×). The organic phase, after being dried over anhydrous Na2SO4, showed one UV-positive tlc spot. A second spot, which could only be detected by phosphomolybdic acid (PMA)--Ce(SO4)2 spray, was identified as the unreacted alcohol by tlc comparison with authentic material. The ethyl acetate solution was evaporated to dryness and dried under high vacuum, giving a clear oil weighing 0.965 g. The crude material was chromatographed on a Merck Si--60 size C prepacked column by gradient elution with toluene to toluene:ethyl acetate (9:1). After evaporation, 0.629 g (72.0%) of clear, colorless oil was recovered: nmr (CDCl3, ppm), 0.85-2.05 (13H, m, aliphatic H of cyclohexanol), 0.9 (3H, d, J=6 Hz, CH3) 1.3 (3H, d, J=7 Hz, obscured by other aliphatic protons, β--CH3 of Ala), 4.3 (2H, m, CH--O-- and α--H), 5 (2H, s, ArCH2 --), 5.25 (1H, broad s, amide H), 7.15 (5H, s, ArH5).

reactant | N-Benzyloxycarbonyl-D-alanine | 2.5 mmol, 0.556 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | trans-2-methylcyclohexanol | 1 mL, 3 equivalents | C[C@H]1[C@@H](CCCC1)O | C7H14O
reactant | DCC | 2.5 mmol, 0.515 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 70 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | HOAc | several drops | CC(=O)O | C2H4O2
product | N-Benzyloxycarbonyl-D-alanine trans-2-Methylcyclohexyl Ester | C[C@H]1[C@@H](CCCC1)OC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O | C18H25NO4
